US07662831B2
Following the procedure of Example 1, Step 4, 5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-amine (0.10 g, 0.44 mmol), acetic anhydride (0.042 mL, 0.44 mmol) and poly-(4-vinylpyridine) (600 mg) in dichloroethane (15 mL) provided N-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-ylacetamide (26 mg). MS (ESI) m/z 269; HPLC purity 99.4% at 210-370 nm, 9.1 min.; 98.4% at 248 nm, 9.1 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 ((Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min); HRMS: calcd for C17H20N2O+H+, 269.16484; found (ESI, [M+H]+), 269.1646.

reactant | 5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-amine | 0.44 mmol, 0.10 g | C1=C2C=3CCCCC3N3C2=C(C=C1N)CCC3 | C15H18N2
reactant | acetic anhydride | 0.44 mmol, 0.042 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | N-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-ylacetamide | 26 mg | C1=C2C=3CCCCC3N3C2=C(C=C1NC(C)=O)CCC3 | C17H20N2O
